US07067517B2
Methyl-phenyl-carbamic acid 5-(cyclohexanecarbonyl-amino)-pyridin-2-yl ester
A solution of cyclohexanecarboxylic acid (6-hydroxy-pyridin-3-yl)-amide (0.66 g, 3.00 mmol), N-methyl-N-phenylcarbamoyl chloride (0.51 g, 3.00 mmol) and 1,4-diazabicyclo[2.2.2]octane (0.34 g, 3.00 mmol) in dimethylformamide (20 ml) was stirred at room temperature for 18 hours. Water was added and the precipitates were collected by suction. The solids were dissolved in dichloromethane and the solution was dried over sodium sulphate, filtered and evaporated in vacuo. The residue was crystallised from ethyl acetate:heptane yielding the title compound (0.75 g, 71% yield) as a slightly coloured solid.

reactant | cyclohexanecarboxylic acid (6-hydroxy-pyridin-3-yl)-amide | 3.00 mmol, 0.66 g | OC1=CC=C(C=N1)NC(=O)C1CCCCC1 | C12H16N2O2
reactant | N-methyl-N-phenylcarbamoyl chloride | 3.00 mmol, 0.51 g | CN(C(=O)Cl)C1=CC=CC=C1 | C8H8ClNO
reactant | 1,4-diazabicyclo[2.2.2]octane | 3.00 mmol, 0.34 g | N12CCN(CC1)CC2 | C6H12N2
reactant | Water | O | H2O
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | Methyl-phenyl-carbamic acid 5-(cyclohexanecarbonyl-amino)-pyridin-2-yl ester | 0.75 g, 71% yield | C1(CCCCC1)C(=O)NC=1C=CC(=NC1)OC(N(C1=CC=CC=C1)C)=O | C20H23N3O3
